US07410981B2
2-(Methylamino)ethyl 4-fluorobenzoate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl (methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (10 mL) were added 4-fluorobenzoyl chloride (1.74 g) and pyridine (0.97 mL). The mixture was stirred at room temperature for 6.5 hrs. Ethyl acetate (80 mL) was added to the reaction mixture, and the mixture was washed with water (30 mL), a saturated aqueous sodium hydrogen carbonate solution (30 mL), water (30 mL) and saturated brine (30 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 1 hr., the precipitated solid was collected by filtration. The solid was washed twice with ethyl acetate (15 mL) and dried under reduced pressure at 60° C. to give the title compound (1.89 g) as a white solid.

reactant | 4-fluorobenzoyl chloride | 1.74 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | Ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Methylamino)ethyl 4-fluorobenzoate hydrochloride | 1.89 g | Cl.FC1=CC=C(C(=O)OCCNC)C=C1 | InChI=1S/C10H12FNO2.ClH/c1-12-6-7-14-10(13)8-2-4-9(11)5-3-8;/h2-5,12H,6-7H2,1H3;1H
